US04452809
Cis-1-methyl-4-phenoxy-3-pyrrolidinol
A solution of 12.5 g. (28 mmoles) of cis-3-(3-chlorophenoxy)-4-hydroxy-1-methyl-1-phenylmethylpyrrolidinium iodide in 400 ml. of ethanol was stirred at 45° C. with 3.5 g. (15 mmoles) of silver oxide for 1 hr. The solids were removed by filtration and the filtrate was concentrated to 100 ml., treated with 0.5 g. of 10% palladium-on-charcoal catalyst and was shaken under hydrogen at 60° C. for 3 hr. The mixture was cooled and the catalyst was collected by filtration. The filtrate was concentrated and the residue was treated with dilute sodium hydroxide and extracted into methylene chloride. The solution was concentrated and redissolved in hot cyclohexane, treated with charcoal, separated by filtration through Celite and recrystallized from cyclohexane to give 4.6 g. (85%) of white needles (m.p. 78°-81° C.).

reactant | cis-3-(3-chlorophenoxy)-4-hydroxy-1-methyl-1-phenylmethylpyrrolidinium iodide | 28 mmoles | [I-].ClC=1C=C(O[C@@H]2C[N+](C[C@@H]2O)(CC2=CC=CC=C2)C)C=CC1
catalyst | silver oxide | 15 mmoles | [Ag]=O
solvent | ethanol | C(C)O | C2H6O
product | Cis-1-methyl-4-phenoxy-3-pyrrolidinol | CN1C[C@H]([C@H](C1)OC1=CC=CC=C1)O | C11H15NO2
